US06514968B1
Preparation 23 9-Benzyl-6-chloro-1,2,3,9-tetrahydro-4H-carbazol-4-one
6-Chloro-1,2,3,9-tetrahydro-4H-carbazol-4-one (0.4010 g, 0.0018 mol) is added to a slurry of pentane-washed NaH (0.0902 g, 0.0023 mol) in DMF (2 mL) and after stirring for 27 min, benzyl bromide (0.26 mL, 0.0022 mol) is added. After stirring for 2.5 h at room temperature, the mixture is partitioned between aq. sodium bicarbonate and ethyl acetate. The combined organic layers are dried over sodium sulfate and concentrated to dryness. The resulting solids are chromatographed on silica gel (200 mL) using dichloromethane/heptane (60/40 and 100/0) to give 0.5158 g (91%) of the title compound. An aliquot (0.0625 g) is recrystallized from ethyl acetate/heptane to give 0.0415 g of product; mp 196.5-197° C.; MS (ESI+) for C19H16ClNO m/z 310.1 (M+H)+; 1H NMR (CDCl3) δ2.24, 2.58, 2.87, 5.31, 6.99, 7.16, 7.29, 8.28. Anal. Calcd for C19H16ClNO: C, 73.66; H, 5.20; N, 4.52. Found: C, 73.18; H, 5.19; N, 4.58.

reactant | 6-Chloro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.0018 mol, 0.4010 g | ClC=1C=C2C=3C(CCCC3NC2=CC1)=O | C12H10ClNO
reactant | pentane | CCCCC | C5H12
reactant | NaH | 0.0023 mol, 0.0902 g | [H-].[Na+]
reactant | benzyl bromide | 0.0022 mol, 0.26 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 9-Benzyl-6-chloro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.5158 g, 91% | C(C1=CC=CC=C1)N1C2=CC=C(C=C2C=2C(CCCC12)=O)Cl | C19H16ClNO
